US08138197B2
Methyl 3-methyl-1-phenyl-1H-indazole-5-carboxylate
The mixture of 5-bromo-3-methyl-1-phenyl-1H-indazole (642 mg), Pd(OAc)2 (52 mg), DPPF (123 mg), diisopropyl ethyl amine (1.14 ml) in DMF (5 ml)-MeOH (5 ml) was purged with CO and stirred at 70° C. under CO atmosphere for over night. The cooled reaction mixture was evaporated and the residue was purified by silica gel column chromatography (hexane/EtOAc) to give the title compound as brown oil.

reactant | 5-bromo-3-methyl-1-phenyl-1H-indazole | 642 mg | BrC=1C=C2C(=NN(C2=CC1)C1=CC=CC=C1)C | C14H11BrN2
reactant | diisopropyl ethyl amine | 1.14 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | MeOH | 5 ml | CO | CH4O
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 52 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | DPPF | 123 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | Methyl 3-methyl-1-phenyl-1H-indazole-5-carboxylate | CC1=NN(C2=CC=C(C=C12)C(=O)OC)C1=CC=CC=C1 | C16H14N2O2
